US05373008
A mixture of 2-methyl-1-(2-morpholinophenyl)-2-thiopseudourea (12.5 g) and N-(2-hydroxyethyl)-1,2-dimethylethylenediamine (8 g) in dry ethanol (150 ml) was heated under reflux at 90°-95° C. for 6 days to give a dark brown oil which was purified by column chromatography on neutral alumina (250 g) using a 1:9 mixture of dichloromethane and hexane to give 4-{2-[4,5-dimethyl-1-(2-hydroxyethyl)-2-imidazolidinylideneamino]phenyl}morpholine as a colourless solid (m.p. 108°-109° C.) which was recrystallised from hexane.

reactant | 2-methyl-1-(2-morpholinophenyl)-2-thiopseudourea | 12.5 g | CSC(NC1=C(C=CC=C1)N1CCOCC1)=N | C12H17N3OS
reactant | N-(2-hydroxyethyl)-1,2-dimethylethylenediamine | 8 g | OCCNC(C(N)C)C | C6H16N2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-{2-[4,5-dimethyl-1-(2-hydroxyethyl)-2-imidazolidinylideneamino]phenyl}morpholine | CC1NC(N(C1C)CCO)=NC1=C(C=CC=C1)N1CCOCC1 | C17H26N4O2
